US08809304B2
(1-1) Synthesis of (2,2-dimethyl-5-hydroxymethyl-1,3-dioxan-5-yl)carbamic Acid t-butyl Ester (Reference Example Compound 1-1)
Tris(hydroxymethyl)aminomethane hydrochloride (2 g) was dissolved in N,N-dimethylformamide (50 ml), 2,2-dimethoxypropane (7.8 ml) and p-toluenesulfonic acid monohydrate (229 mg) were added, and the mixture was stirred at room temperature for 15 hr. To the mixed solution were added triethylamine (9.5 ml), methanol (20 ml) and di-t-butyl dicarbonate (4.17 g), and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (3.11 g) as a colorless solid.

reactant | Tris(hydroxymethyl)aminomethane hydrochloride | 2 g | C(C(CO)(CO)N)O.Cl
reactant | 2,2-dimethoxypropane | 7.8 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 229 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | di-t-butyl dicarbonate | 4.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | triethylamine | 9.5 ml | C(C)N(CC)CC | C6H15N
product | (2,2-dimethyl-5-hydroxymethyl-1,3-dioxan-5-yl)carbamic Acid t-butyl Ester | 3.11 g | C(C)(C)(C)OC(NC1(COC(OC1)(C)C)CO)=O | C12H23NO5
